US05665717
1c) (3S,4S)-4-[(R)-2,2-Dimethyl-1,3-dioxolan-4-yl]-1-(4-methoxyphenyl)-3-phenylacetamidoazetidin-2-one
A solution of (3S,4S)-3-amino-4-[(R)-2,2-dimethyl-1,3-dioxolan-4-yl]-1-(4-methoxyphenyl)azetidin-2-one (12.21 g, 41.8 mmol) in dichloromethane (160 ml) was cooled to 0° C. and treated sequentially with phenylacetyl chloride (6.1 ml, 46.1 mmol), then triethylamine (6.4 ml, 45.9 mmol). After stirring at 0° C. for 15 min., the mixture was warmed to room temperature and stirred for a further 30 min. The reaction mixture was diluted with dichloromethane and washed twice with water, then brine. The organic layer was dried over magnesium sulphate, filtered and the solvent evaporated in vacuo to yield a solid. Trituration with diethyl ether yielded the title compound (16.16 g, 94%) as a white amorphous solid; [α]D 0.0° (c=1.00 DMF); νmax (KBr) 1757, 1661 and 1510 cm-1 ; δH (CDCl3) 1.16 (3H, s), 1.25 (3H, s), 3.62 (2H, s), 3.69-3.82 (2H, m), 3.76 (3H; s), 4.02 (1H, m), 4.36 (1H, dd, J 5.5, 4.0 Hz), 5.58 (1H, dd, J 9.4, 5.5 Hz), 6.56 (1H, d, J 9.4 Hz), 6.83 (2H, d. J 8.9 Hz) and 7.25-7.40 (7H, m); m/z (EI) 410 (5); (CI, +ve ion, ammonia) 411 (MH+).

reactant | (3S,4S)-3-amino-4-[(R)-2,2-dimethyl-1,3-dioxolan-4-yl]-1-(4-methoxyphenyl)azetidin-2-one | 41.8 mmol, 12.21 g | N[C@@H]1C(N([C@@H]1[C@H]1OC(OC1)(C)C)C1=CC=C(C=C1)OC)=O | C15H20N2O4
reactant | phenylacetyl chloride | 46.1 mmol, 6.1 ml | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | triethylamine | 45.9 mmol, 6.4 ml | C(C)N(CC)CC | C6H15N
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | dichloromethane | 160 ml | ClCCl | CH2Cl2
product | (3S,4S)-4-[(R)-2,2-Dimethyl-1,3-dioxolan-4-yl]-1-(4-methoxyphenyl)-3-phenylacetamidoazetidin-2-one | 16.16 g, 94% | CC1(OC[C@H](O1)[C@@H]1[C@@H](C(N1C1=CC=C(C=C1)OC)=O)NC(CC1=CC=CC=C1)=O)C | C23H26N2O5
